US08895547B2
[(S)-3-(tert-Butyldimethylsilanyloxy)-1-(2-fluorophenyl)propyl]-{6,6-dimethyl-4,4-dioxo-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-2-yl}amine
To a solution of [5-(4-bromophenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-(2-fluorophenyl)propyl]amine (490 mg) in dioxane were added Pd(dppf)Cl2 (67 mg), bis(pinacolato)diboron (311 mg) and potassium acetate (241 mg), and the mixture was stirred at 80° C. for 1 h. After dilution with ethyl acetate, the mixture was washed with water and sodium chloride solution, dried over kieselguhr and concentrated. This was followed by purification by column chromatography (ethyl acetate/heptane). This gave the product (447 mg) with a molecular weight of 646.7 g/mol (C32H48BFN2O6SSi).

reactant | [5-(4-bromophenyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-2-yl]-[(S)-3-(tert-butyldimethylsilanyloxy)-1-(2-fluorophenyl)propyl]amine | 490 mg | BrC1=CC=C(C=C1)C1S(N=C(OC1(C)C)N[C@@H](CCO[Si](C)(C)C(C)(C)C)C1=C(C=CC=C1)F)(=O)=O | C26H36BrFN2O4SSi
reactant | bis(pinacolato)diboron | 311 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 241 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 67 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | [(S)-3-(tert-Butyldimethylsilanyloxy)-1-(2-fluorophenyl)propyl]-{6,6-dimethyl-4,4-dioxo-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-2-yl}amine | 447 mg | [Si](C)(C)(C(C)(C)C)OCC[C@@H](C1=C(C=CC=C1)F)NC=1OC(C(S(N1)(=O)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(C)C | C32H48BFN2O6SSi
